US08536351B2
Diethyl malonate (6.50 ml, 43 mmol) is added dropwise to a cooled (ice-bath) solution of sodium (1.07 g, 46 mmol) in anhydrous ethanol (60 ml) and once the addition is complete the cooling bath is removed and the reaction mixture is stirred at room temperature for 25 minutes. The mixture is cooled in an ice bath and a solution of 4-(tetrahydrofuran-3-yl)-3-buten-2-one (5.0 g, 36 mmol) in ethanol (30 ml) is added dropwise. Once the addition is complete the cooling bath is removed and the reaction mixture is stirred at room temperature for 19 hours. The reaction mixture is acidified to pH 3 by dropwise addition of 2M aqueous hydrochloric acid, water added to dissolve any precipitate formed and the reaction mixture is extracted into dichloromethane. The organic extracts are dried over anhydrous magnesium sulphate, filtered and the filtrate is concentrated in vacuo to afford a yellow oil which is taken up in isopropanol (35 ml) and a 2M aqueous solution of sodium hydroxide (100 ml) is added. The reaction mixture is stirred at room temperature for 20 hours. The reaction mixture is concentrated in vacuo to remove isopropanol then heated to 70° C. A solution of 2M aqueous hydrochloric acid is added carefully until the reaction mixture reached pH 1. The reaction mixture is heated for 1½ hours at 70° C., then cooled to room temperature, diluted with water and the product is extracted into ethyl acetate. The organic extracts are combined, dried over anhydrous magnesium sulphate, filtered and the filtrate is concentrated in vacuo to give 5-(tetrahydrofuran-3-yl)cyclohexane-1,3-dione as a yellow solid.

reactant | Diethyl malonate | 43 mmol, 6.50 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium | 46 mmol, 1.07 g | [Na] | Na
reactant | 4-(tetrahydrofuran-3-yl)-3-buten-2-one | 36 mmol, 5.0 g | O1CC(CC1)C=CC(C)=O | C8H12O2
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | isopropanol | 35 ml | C(C)(C)O | C3H8O
product | 5-(tetrahydrofuran-3-yl)cyclohexane-1,3-dione | O1CC(CC1)C1CC(CC(C1)=O)=O | C10H14O3
